US04410730
To a solution of boron trichloride (14.77 g) in toluene (60 ml), a solution of methylaniline (13.5 g) in toluene (30 ml) is added dropwise at -20° C. with stirring. A solution of triethylamine (12.8 g) in toluene (20 ml) is added to the above mixture, which is stirred at room temperature overnight. The precipitate is filtered under nitrogen atmosphere and washed with toluene. The filtrate and washings are combined, evaporated under reduced pressure to remove the toluene, and the residue is distilled to give N-methylanilinoborane dichloride (10.5 g) as an oil distilling at 60° to 65° C./3 mm Hg. [Niedenzu, J. Am. Chem. Soc., 81, 5553 (1959)].

reactant | boron trichloride | 14.77 g | B(Cl)(Cl)Cl | BCl3
reactant | methylaniline | 13.5 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 12.8 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-methylanilinoborane dichloride | 10.5 g | [Cl-].[Cl-].CN(C1=CC=CC=C1)B | InChI=1S/C7H10BN.2ClH/c1-9(8)7-5-3-2-4-6-7;;/h2-6H,8H2,1H3;2*1H/p-2
